US09085581B2
To a 5000 mL, 3-neck round bottom flask equipped with a mechanical stirrer, a temperature probe, a nitrogen inlet, and a heating mantle was added ethyl 5-(benzyloxy)-1H-indole-2-carboxylate (150 g, 508 mmol) followed by anhydrous THF (2000 mL). To the resulting mixture was added potassium t-butoxide (1.0 M in THF, 762 mL, 762 mmol) via an addition funnel over 15 min (temperature increased from 20° C. to 26° C. over the addition time). The mixture was stirred for 1 h and ethyl acrylate (166 mL, 1.52 mol) was added via addition funnel over 15 min (temp increase to 34° C.). The addition funnel was replaced with a reflux condenser and the mixture heated to reflux and stirred for 18 h (the product started to appear as a white precipitate after only 0.5 h of heating). The flask was cooled to room temperature. The resulting precipitate was collected by vacuum filtration. The filtrate was concentrated to approximately 750 mL and diluted with MTBE (approx. 500 mL). Additional product precipitated and this material was filtered and added to the original filter cake. The combined solids were washed with cold THF:MTBE (1:1) and vacuum oven dried (45° C., 2 Ton) to give potassium 7-(benzyloxy)-2-(ethoxycarbonyl)-3H-pyrrolo[1,2-a]indol-1-olate as an off-white solid (120 g, 61% yield). Exact mass calculated for C21H19NO4 (protonated keto-enol form): 349.1, found: LCMS m/z=350.3, [M+H+]; 1H NMR (400 MHz, d6-DMSO) δ ppm 1.18 (t, J=7.1 Hz, 3 H), 3.99 (q, J=7.1 Hz, 2 H), 4.59 (s, 2 H), 5.09 (s, 2 H), 6.14 (s, 1 H), 6.80 (dd, J1=8.8, J2=2.3 Hz, 1 H), 7.11 (d, J=2.3 Hz, 1 H), 7.30 (m, 2 H), 7.38 (m, 2 H), 7.46 (m, 2 H).

reactant | ethyl 5-(benzyloxy)-1H-indole-2-carboxylate | 508 mmol, 150 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | potassium t-butoxide | 762 mmol, 1.0 M, 762 mL | CC(C)([O-])C.[K+]
reactant | ethyl acrylate | 1.52 mol, 166 mL | C(C=C)(=O)OCC | C5H8O2
solvent | THF | 2000 mL | C1CCOC1 | C4H8O
product | potassium 7-(benzyloxy)-2-(ethoxycarbonyl)-3H-pyrrolo[1,2-a]indol-1-olate | 120 g, 61% yield | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)CC(=C3[O-])C(=O)OCC.[K+] | InChI=1S/C21H19NO4.K/c1-2-25-21(24)17-12-22-18-9-8-16(10-15(18)11-19(22)20(17)23)26-13-14-6-4-3-5-7-14;/h3-11,23H,2,12-13H2,1H3;/q;+1/p-1
